US03943154
EXAMPLE 25: 3-[4-(4-HYDROXY-3-CARBOXYBENZENESULFONAMIDO)-BENZENESULFONYL]ACRYLONITRILE
is prepared by dissolving 10.4 grams (0.05 mol) of 3-(4-aminobenzenesulfonyl)acrylonitrile and 14 g (0.05 mol + 15% excess) of 4-hydroxy-3-carboxybenzenesulfonyl chloride in 200 ml acetone, cooling in an ice bath and slowly adding thereto 8 ml (0.055 mol) of triethylamine diluted with 25 ml acetone. After filtration and evaporation of the acetone the remaining semi-solid is dissolved in dimethylformamide, dispersed in water and the emulsion extracted with chloroform. After work-up the above sulfonamide is recovered.

reactant | 3-(4-aminobenzenesulfonyl)acrylonitrile | 0.05 mol, 10.4 grams | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | 4-hydroxy-3-carboxybenzenesulfonyl chloride | 0.05 mol, 14 g | OC1=C(C=C(C=C1)S(=O)(=O)Cl)C(=O)O | C7H5ClO5S
reactant | triethylamine | 0.055 mol, 8 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3-[4-(4-HYDROXY-3-CARBOXYBENZENESULFONAMIDO)-BENZENESULFONYL]ACRYLONITRILE | OC1=C(C=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N)C(=O)O | C16H12N2O7S2
